US07943669B2
Step B: {2-Chloro-4-[3-(3-methoxy-prop-1-ynyl)-5-(3-morpholin-4-yl-propoxy)phenylsulfanyl]-phenoxy}-acetic Acid
{2-Chloro-4-[3-(3-methoxy-prop-1-ynyl)-5-(3-morpholin-4-yl-propoxy)-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester (150 mg; 0.30 mmol) was dissolved in ethanol (10 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 1 h, acidified with 1 N aqueous hydrochloric acid, and extracted with ethyl acetate. The organic phase was dried, and evaporated to dryness and purified by preparative HPLC (method B). Yield: 50 mg. HPLC-MS: m/z: 506.0 (M+); Rt: 1.56 min. δH (400 MHz; CDCl3) 2.06-2.15 (m, 2H), 2.82-2.92 (m, 2H), 3.15-3.23 (m, 2H), 3.45 (s, 3H), 3.56 (d, 2H), 3.78 (t, 2H), 3.95-4.03 (m, 4H), 4.30 (s, 2H), 4.89 (s, 2H), 5.91-5.94 (m, 1H), 6.63-6.66 (m, 1H), 6.93 (d, 1H), 7.01-7.03 (m, 1H), 7.40 (dd, 1H), 7.58 (d, 1H).

reactant | {2-Chloro-4-[3-(3-methoxy-prop-1-ynyl)-5-(3-morpholin-4-yl-propoxy)-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester | 0.30 mmol, 150 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OCCCN1CCOCC1)C#CCOC)Cl)=O | C27H32ClNO6S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | {2-Chloro-4-[3-(3-methoxy-prop-1-ynyl)-5-(3-morpholin-4-yl-propoxy)phenylsulfanyl]-phenoxy}-acetic Acid | ClC1=C(OCC(=O)O)C=CC(=C1)SC1=CC(=CC(=C1)OCCCN1CCOCC1)C#CCOC | C25H28ClNO6S
